### PR TITLE
Providing a file in the Logic library to work with extensional choice (i.e. choice over setoids)

### PR DESCRIPTION
**Pull request by herbelin**
This is a slight extension of the Logic library emphasizing the mathematical importance of the so-called extensional choice, i.e. of the axiom of choice over setoids, a kind of choice allowing to choose representatives in equivalence classes (a key ingredient of the Banach-Tarski paradox which Daniel is currently formalizing).

Its main high-level contribution is to offer a file SetoidChoice.v which provides the axiom of choice over setoids.

Its main technical contribution is to formalize two characterizations of the axiom of choice over setoids, one by Carlström from intensional choice, excluded-middle and (a limited form of) extensionality, the other one from intensional choice, (a limited form of) predicate extensionality and proof-irrelevance.

[Regarding the computational contents, my analysis of the non-constructivity of the axiom of choice over setoids comes from the impossibility to simultaneously interpret existential quantification as a strong existential quantification from which intensional choice derives and as a squashed type over which proof-irrelevance holds.]

I faced various design dilemmas: - terminology dilemmas - balancing between referring only to standard schemes (such as extensionality of functions and propositions, excluded-middle, proof-irrelevance) or highlighting the fined-grained components we are able to see in extensional choice as of now.

Typically, the extensional axiom of choice (Martin-Löf's terminology) can litterally be seen as an axiom of choice up to equivalence, i.e. as an axiom of choice over setoids. It is a consequence of intensional choice, extensionality and proof-irrelevance but it implies in turn only a limited form of extensionality.

Shall we then prefer to highlight the original terminology "extensional axiom of choice", a terminology highlighting the underlying algebraic structure as in "axiom of choice over setoids", or a terminology relying on more universal "high school" vocabulary such as "axiom of choice up to equivalence"?

Correspondingly, what level of algebraic abstraction to put in the statement (relying on the Setoid class, on the Equivalence class, referring explicitly to respectfulness)?

### CODE REVIEW

File: theories/Logic/ChoiceFacts.v [hunk 1]
```diff
@@ -862,3 +968,322 @@ Proof.
...
+Proof.
+  intros SetoidFunChoice A B R T Hequiv Hexists.
+  pose (T' x y := forall x', R x x' -> T x' y).
+  assert (Hcompat : forall (x x' : A) (y : B), R x x' -> T' x y -> T' x' y) by firstorder.
+  destruct (SetoidFunChoice A B R T' Hequiv Hcompat Hexists) as (f,Hf).
+  exists f. firstorder.
+Qed.
+
+Theorem simple_setoid_fun_choice_imp_setoid_fun_choice :
+  SimpleSetoidFunctionalChoice -> SetoidFunctionalChoice.
```
Comment (JasonGross) [inline theories/Logic/ChoiceFacts.v]: Some of these theorems can be made more general, into things like `SimpleSetoidFunctionalChoice_on A -> SetoidFunctionalChoice_on A`.  Is there a reason not to do this?

Comment (herbelin) [inline theories/Logic/ChoiceFacts.v]: @JasonGross: It could be done. This makes the statements a bit more technical but it also strengthens them.

Done.

File: theories/Logic/ChoiceFacts.v [hunk 2]
```diff
@@ -148,6 +171,55 @@ Definition FunctionalRelReification_on :=
...
+
+(** AC_fun_ext *)
+
+Definition SetoidFunctionalChoice_on :=
+  forall R : A -> A -> Prop,
+  forall T : A -> B -> Prop,
+  Equivalence R ->
+  (forall x x' y, R x x' -> T x y -> T x' y) ->
+  (forall x, exists y, T x y) ->
+  exists f : A -> B, forall x : A, T x (f x) /\ (forall y : A, R x y -> f x = f y).
```
Comment (Zimmi48) [inline theories/Logic/ChoiceFacts.v]: This is a micro remark but I would change the last `y` in `x'` to preserve the idea (in this axiom formulation) that `x` variables are for type `A` and `y` variables are for type `B` (and this is also classic to do that in math, when a function is involved). The same applies in the next axiom (GeneralizedSetoidFunctionalChoice_on) but not in SimpleSetoidFunctionalChoice_on because it is already as I would like it to be.

File: theories/Logic/SetoidChoice.v [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+Require Import RelationClasses.
+
+Theorem setoid_choice :
+  forall A B,
+  forall R : A -> A -> Prop,
+  forall T : A -> B -> Prop,
+  Equivalence R ->
+  (forall x x' y, R x x' -> T x y -> T x' y) ->
+  (forall x, exists y, T x y) ->
+  exists f : A -> B, forall x : A, T x (f x) /\ (forall y : A, R x y -> f x = f y).
```
Comment (Zimmi48) [inline theories/Logic/SetoidChoice.v]: The same remarks also applies here.

File: theories/Logic/ChoiceFacts.v (hunk 2 above)
Comment (herbelin) [inline theories/Logic/ChoiceFacts.v]: I agree for GeneralizedSetoidFunctionalChoice_on and SetoidFunctionalChoice_on. But why not on SimpleSetoidFunctionalChoice_on also?

At the same time, I spotted a couple of other typos and integrated your PR at [#3](https://github.com/herbelin/github-coq/pull/3).

Comment (Zimmi48) [inline theories/Logic/ChoiceFacts.v]: In SimpleSetoidFunctionalChoice_on, `forall x' : A, R x x' -> f x = f x'` already uses `x'` and not `y` for variables of type `A`.

**Comment by maximedenes** [comment]
@herbelin maybe an entry in `CHANGES` could help advertising this? Is it ready for merge, otherwise? I'll close and reopen to trigger a test.

**Comment by herbelin** [comment]
@maximedenes: CHANGES: good remark. Done, and rebases at the same time.

**Comment by maximedenes** [comment]
Travis reports an error when building the doc: https://travis-ci.org/coq/coq/jobs/207288670

**Comment by herbelin** [comment]
It is because of file `doc/stdlib/index-list.html.template`. Fixed.
